US05633371
18.8 ml of n-butyllithium solution (1.6M in hexane) are added dropwise at -50° within 10 minutes to 4.03 g of thiophone dissolved in 40 ml of tetrahydrofuran. After stirring at -50° for 30 minutes 6.3 g of 3,4-dimethoxy-5-nitrobenzaldehyde dissolved in 100 ml of tetrahydrofuran are added dropwise within 30 minutes. The reaction mixture is stirred at -50° for 1 hour at 0° for 30 minutes and poured into 100 ml of 2N sulphuric acid. The mixture is extracted three times with 100 ml of ether each time; the combined ether phases are washed with sodium chloride solution, dried over sodium sulfate, filtered and evaporated. There is obtained α-(3,4-dimethoxy-5-nitrophenyl)-2-thiophenemethanol of m.p. 79°-81° (from methylene chloride/hexane).

reactant | n-butyllithium | 1.6M, 18.8 ml | C(CCC)[Li]
reactant | 3,4-dimethoxy-5-nitrobenzaldehyde | 6.3 g | COC=1C=C(C=O)C=C(C1OC)[N+](=O)[O-] | C9H9NO5
reactant | sulphuric acid | 2N, 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | α-(3,4-dimethoxy-5-nitrophenyl)-2-thiophenemethanol | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(O)C=1SC=CC1 | C13H13NO5S
